US05179124
Ethyl 2-[4-hydroxyphenyl]propionate [20 mmole] was combined with 3-chloropropanol [22 mmole] and potassium carbonate [24 mmole] in acetone [100 ml], then refluxed for 18 hours. After removal of the acetone under reduced pressure, the reaction mixture was extracted with 1N sodium hydroxide solution to remove acidic components. These were chromatographed on silica gel/toluene to isolate the product, 2-[4-(3-hydroxypropoxy)phenyl]propionic acid, as an amorphous solid. Mass spectral, proton nuclear magnetic resonance, and elemental analysis data are consistent with the assigned structure. Additional product was obtained by basic hydrolysis of the neutral fraction, followed by silica gel/toluene chromatography.

reactant | Ethyl 2-[4-hydroxyphenyl]propionate | 20 mmole | OC1=CC=C(C=C1)C(C(=O)OCC)C | C11H14O3
reactant | 3-chloropropanol | 22 mmole | ClCCCO | C3H7ClO
reactant | potassium carbonate | 24 mmole | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-[4-(3-hydroxypropoxy)phenyl]propionic acid | OCCCOC1=CC=C(C=C1)C(C(=O)O)C | C12H16O4
